US05192785
2-(3-Pyridyloxy)ethanol
This compound was prepared according to the procedure in Preparation 17. Thus, reacting 14 g (0.15 mole) of 3-hydroxypyridine with 27 ml (0.4 mole) of 2-chlorethanol and 85 g of potassium carbonate in 150 ml of 2-butanone at reflux temperature gave 4.9 g of the title compound after column chromatography (5% methanol in methylene chloride on silica gel).

reactant | 3-hydroxypyridine | 0.15 mole, 14 g | OC=1C=NC=CC1 | C5H5NO
reactant | 2-chlorethanol | 0.4 mole, 27 ml | ClCCO | C2H5ClO
reactant | potassium carbonate | 85 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | CO | CH4O
solvent | 2-butanone | 150 ml | CC(CC)=O | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-(3-Pyridyloxy)ethanol | 4.9 g | N1=CC(=CC=C1)OCCO | C7H9NO2
